US08877782B2
6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid isopropyl ester
A solution of N,N-dicyclohexylcarbodiimide (258 mg, 1.25 mmol) and 4-dimethylaminopyridine (12 mg, 0.10 mmol) in dichloromethane (4 mL) was added dropwise to a solution of 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (310 mg, 1.0 mmol) and 2-propanol (0.06 g, 1.0 mmol) in dichloromethane (4 mL) at room temperature. After 15 h, the mixture was filtered and the filtrate was concentrated and purified by chromatography (SiO2, heptane:ethyl acetate 100:0 to 8:2) to give the title compound (270 mg, 77%) as a colourless oil. MS: m/e=353.1 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 1.0 mmol, 310 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | 2-propanol | 1.0 mmol, 0.06 g | CC(C)O | C3H8O
catalyst | 4-dimethylaminopyridine | 0.10 mmol, 12 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid isopropyl ester | 270 mg, 77% | C(C)(C)OC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O | C20H20N2O4
